US08895582B2
To a solution of (S)-methyl 5-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoate (1.45 g, 2.04 mmol, 1.0 equiv.) in 1,4-dioxane (18 mL) was added aqueous LiOH (6.12 mL, 6.12 mmol, 3.0 equiv.) at RT After stirred at RT for 1 h, the reaction mixture was acidified with HCl (1.0 N) to pH ˜3. The mixture was extracted with EtOAc twice. The combined EtOAc solution was washed with brine, dried over Na2SO4, and concentrated under vacuum to give (S)-5-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoic acid, which was used without further purification. LRMS (M+H+) m/z 501.3.

reactant | (S)-methyl 5-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoate | 2.04 mmol, 1.45 g, 1.0 equiv. | FC1=C(CNC(N(C)[C@@H](CCCC(=O)OC)COC(NC=2N=CC3=CC=CC=C3C2)=O)=O)C=CC=C1F | C26H28F2N4O5
reactant | LiOH | 6.12 mmol, 6.12 mL, 3.0 equiv. | [Li+].[OH-]
reactant | HCl | 1.0 N | Cl | ClH
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | (S)-5-(3-(2,3-difluorobenzyl)-1-methylureido)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoic acid | FC1=C(CNC(N(C)[C@@H](CCCC(=O)O)COC(NC=2N=CC3=CC=CC=C3C2)=O)=O)C=CC=C1F | C25H26F2N4O5
